US05095021
N-[8-(4-Tolyl)octyl]-4-hydroxy-4-phenylpiperidine (compound No. 1)
10 g (40 mmol) of 1-chloro-8-tolyloctane, 21.2 g (120 mmol) of 4-hydroxy-4-phenylpiperidine, 5.52 g (40 mmol) of potassium carbonate and 3.3 g (20 mmol) of potassium iodide are heated with 30 ml of xylene at 160° C. for 8 h. The solvent is removed by distillation under reduced pressure. The residue is taken up in dichloromethane/dilute sodium hydroxide solution, and the organic extract is worked up in a conventional manner. The low-boiling compounds are removed by distillation under reduced pressure up to 150° C./0.9 mbar. 11.4 g (94%) of a resin are obtained (see Tab. 1 for physical data).

reactant | 1-chloro-8-tolyloctane | 40 mmol, 10 g | ClCCCCCCCCC1=C(C=CC=C1)C | C15H23Cl
reactant | 4-hydroxy-4-phenylpiperidine | 120 mmol, 21.2 g | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
reactant | potassium carbonate | 40 mmol, 5.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 20 mmol, 3.3 g | [I-].[K+]
solvent | xylene | 30 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N-[8-(4-Tolyl)octyl]-4-hydroxy-4-phenylpiperidine | 11.4 g, 94% | C1(=CC=C(C=C1)CCCCCCCCN1CCC(CC1)(C1=CC=CC=C1)O)C | C26H37NO
